US04760086
A sample of 620 g (3.25 moles) of tris-(2-hydroxypropyl)amine was melted on a steam bath. This was added slowly to a solution of 615 g (2.75 moles) of 2-chloro-5-trifluoromethylbenzoic acid and 375 g (282 ml, 2.98 moles) of dimethylsulfate in 750 ml of acetone in a 5 liter flask. (The solution began to boil during the course of the addition and was kept at 30° C. to 40° C. by intermittant cooling in an ice bath.) After addition was complete the solution was boiled on a steam bath for 30 minutes. The hot solution was diluted first with 250 ml water and, after 10 minutes, with 250 ml of 2N HCl and 750 ml of water and allowed to stir overnight. The solution was extracted with two 2 liter portions of dichloromethane and the organic extract was washed with saturated K2CO3 and water, dried over Na2SO4 and evaporated to afford 630 g (96%) of methyl 2-chloro-5-trifluoromethylbenzoate as a yellow liquid. TLC (silica gel, 10% CH2Cl2 -hexane) showed 1 spot (ester at Rf 0.4; this material was pure enough to be used in the next step without distillation. IR (NaCl, neat) 3080, 3000, 2960 (C--H), 1735 (C=O); NMR [CDCl3, (CH3)4Si] 3.78 (s, 3H, CH3 --), 7.27 (d, 1H, H--3, J3,4 =9), 7.43 (d of d, 1H, H--4, J3,4 =9, J4,6 --2.4), 7.80 (d, 1H, J4,6 --2.5); Mass Spectrum: m/e 240, 238 (1:3, M+), 209, 207 (1:3, M--OCH3), 181, 179 (1:3, M--CO22CH3). B.p. 95° C. at 4.5 torr.

reactant | tris-(2-hydroxypropyl)amine | 3.25 moles, 620 g | OC(CN(CC(C)O)CC(C)O)C | C9H21NO3
reactant | 2-chloro-5-trifluoromethylbenzoic acid | 2.75 moles, 615 g | ClC1=C(C(=O)O)C=C(C=C1)C(F)(F)F | C8H4ClF3O2
reactant | dimethylsulfate | 2.98 moles, 282 ml, 375 g | COS(=O)(=O)OC | C2H6O4S
solvent | acetone | 750 ml | CC(=O)C | C3H6O
solvent | water | 250 ml | O | H2O
solvent | HCl | 2N, 250 ml | Cl | ClH
solvent | water | 750 ml | O | H2O
product | methyl 2-chloro-5-trifluoromethylbenzoate | 630 g, 96% | ClC1=C(C(=O)OC)C=C(C=C1)C(F)(F)F | C9H6ClF3O2
